US04294960
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-n-hexyloxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 2.4 g.), conc. hydrochloric acid (1.84 g.), methanol (36 ml.) and tetrahydrofuran (30 ml.) was stirred at 30° C. for 2 hours. The resultant solution was concentrated in vacuo. Water (60 ml.) was added to the residue and the precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide to give 7-[2-(2-aminothiazol-4-yl)-2-n-hexyloxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 1.86 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-n-hexyloxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid | 2.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCCCCCC | C19H22ClN5O6S2
reactant | hydrochloric acid | 1.84 g | Cl | ClH
reactant | methanol | 36 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-n-hexyloxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.86 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCCCCCC | C18H22ClN5O5S2
